US08252859B2
2,2-Dimethyl-3-(N-benzylmethylamino)propanal
Under the same conditions as for the preparation of 2,2-dimethyl-3-(N-morpholino)propanal, 39.2 g (0.47 mol) of 36% aqueous formaldehyde were reacted with 35.6 g (0.49 mol) of isobutyraldehyde and 57.0 g (0.47 mol) of N-benzylmethylamine, and worked up. The product distilled at a top temperature of 74° C. and a pressure of 4·10−2 mbar. Yield: 80.6 g (83% of theory) as a colorless, clear and almost odorless liquid which had an amine content of 4.83 mmol N/g.

reactant | formaldehyde | 0.47 mol, 39.2 g | C=O | CH2O
reactant | isobutyraldehyde | 0.49 mol, 35.6 g | C(C(C)C)=O | C4H8O
reactant | N-benzylmethylamine | 0.47 mol, 57.0 g | C(C1=CC=CC=C1)CN | C8H11N
product | 2,2-Dimethyl-3-(N-benzylmethylamino)propanal | CC(C=O)(CNCCC1=CC=CC=C1)C | C13H19NO
